US07977477B2
To a solution of 2-amino-3-nitrobenzoic acid (1.82 g, 10.0 mmol) in anhydrous THF (50 ml) was added sodium borohydride (770 mg, 20.0 mmol) followed by boron trifluoride diethyl etherate (2.5 ml, 20 mmol) and the mixture stirred at ambient temperature under a nitrogen atmosphere for 2 h. MeOH was cautiously added until gas evolution had ceased and the mixture reduced in vacuo. The residue was partitioned between EtOAc and brine and the organic portion dried (MgSO4) and reduced in vacuo to give 2-amino-3-nitrobenzyl alcohol (1.42 g) as a yellow solid.

reactant | 2-amino-3-nitrobenzoic acid | 10.0 mmol, 1.82 g | NC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H6N2O4
reactant | sodium borohydride | 20.0 mmol, 770 mg | [BH4-].[Na+]
reactant | boron trifluoride diethyl etherate | 20 mmol, 2.5 ml | B(F)(F)F.CCOCC
reactant | MeOH | CO | CH4O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-amino-3-nitrobenzyl alcohol | 1.42 g | NC1=C(CO)C=CC=C1[N+](=O)[O-] | C7H8N2O3
